US05656573
Ethyl 4-chloro-2-fluoro-3-(1-t-butyldimethylsilyloxyethyl)benzoate (25 g) and tetrabutylammonium fluoride (210ml of 1.0 M solution in THF) were dissolved in THF and stirred for 4 hours at room temperature. The mixture was diluted with ether and washed with water. The organic extract was dried (anhydrous magnesium sulphate) and filtered. The filtrate was evaporated to dryness yielding ethyl 4-chloro-2-fluoro-3-(1-hydroxyethyl)benzoate (16.8 g) as a clear oil, NMR (CDCl3) 1.3(t,3H), 1.5(d,3H), 2.5(bs,1H), 4.3(q,2H), 5.3(q,1H), 7.1(d,1H), 7.7(t,1H).

reactant | Ethyl 4-chloro-2-fluoro-3-(1-t-butyldimethylsilyloxyethyl)benzoate | 25 g | ClC1=C(C(=C(C(=O)OCC)C=C1)F)C(C)O[Si](C)(C)C(C)(C)C | C17H26ClFO3Si
reactant | tetrabutylammonium fluoride | 1.0 M, 210ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | ethyl 4-chloro-2-fluoro-3-(1-hydroxyethyl)benzoate | 16.8 g | ClC1=C(C(=C(C(=O)OCC)C=C1)F)C(C)O | C11H12ClFO3
